US08633313B2
To a solution of picoline (31.9 mL, 1.5 eq) in THF (300 mL) was added MeLi (202 mL, 1.6 M, 1.5 eq) drop-wise at −40° C. under nitrogen. The reaction mixture was allowed to warm to −20° C. and stirred for 10 min. and then cooled to −40° C. and magnesium bromide (59.4 g, 1.5 eq) was added in three portions. The reaction mixture was allowed to warm to rt, stirred for 30 min to provide bromo(pyridin-2-ylmethyl)magnesium.

reactant | picoline | 31.9 mL, 1.5 eq | N1=C(C=CC=C1)C | C6H7N
reactant | MeLi | 1.6 M, 202 mL, 1.5 eq | [Li]C
reactant | magnesium bromide | 59.4 g, 1.5 eq | [Br-].[Mg+2].[Br-]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | bromo(pyridin-2-ylmethyl)magnesium | Br[Mg]CC1=NC=CC=C1 | InChI=1S/C6H6N.BrH.Mg/c1-6-4-2-3-5-7-6;;/h2-5H,1H2;1H;/q;;+1/p-1
